US04775671
A suspension of 9.12 g (40.6 mmol) of 6-chloro-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione in 35 ml of dry N,N-dimethylformamide is treated at -20° to -30° while stirring with 1.77 g (40.6 mmol) of sodium hydride (55 percent oil dispersion), the mixture is stirred at the above temperature for a further 30 minutes and there is subsequently added dropwise thereto at -70° a solution of 10.74 g (40.6 mmol) of phosphoric acid diphenyl ester chloride in 8 ml of dry N,N-dimethylformamide. After stirring in an acetone/dry-ice bath for 20 minutes there is added dropwise thereto at -70° to -55° a solution of 5 g (40.6 mmol) of 2-isocyanomethylthiophene in 5 ml of dry N,N-dimethylformamide and subsequently a solution of 4.56 g (40.6 mmol) of potassium tert.-butylate in 12 ml of dry N,N-dimethylformamide. The mixture is left to warm to room temperature, neutralized with 2.5 ml of glacial acetic acid, poured into 300 ml of water and extracted three times with methylene chloride. The organic extracts are washed four times with water, dried over magnesium sulphate and evaporated. The residue is chromatographed on silica gel while eluting with ethyl acetate. By recrystallization from acetonitrile there is obtained 7-chloro-4,5-dihydro-5-methyl-3-(2-thienyl)-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 222°-223°.

reactant | 6-chloro-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione | 40.6 mmol, 9.12 g | ClC1=CC=CC2=C1C(N(CC(N2)=O)C)=O | C10H9ClN2O2
reactant | sodium hydride | 40.6 mmol, 1.77 g | [H-].[Na+]
reactant | phosphoric acid diphenyl ester chloride | 40.6 mmol, 10.74 g | [Cl-].C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(O)=O
reactant | 2-isocyanomethylthiophene | 40.6 mmol, 5 g | [N+](#[C-])CC=1SC=CC1 | C6H5NS
solvent | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
product | 7-chloro-4,5-dihydro-5-methyl-3-(2-thienyl)-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C=1SC=CC1)C)=O | C16H12ClN3OS
